US06939928B1
(3) Synthesis of 1-(3-phenylcyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane
To a solution of 1.0 g (2.59 mmol) of 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene in 30 ml of THF, 1.75 ml (2.85 mmol) of a hexane solution of n-butyllithium was dropwise added in a nitrogen atmosphere with ice cooling, followed by stirring at room temperature for 4 hours. Then, a solution of 0.92 g (3.11 mmol) of 3,6,6-triphenylfulvene in 10 ml of THF was slowly added at room temperature, followed by stirring for 15 hours. To the reaction solution, 20 ml of water was added to terminate the reaction. The resulting solution was subjected to extraction with diethyl ether, then dried over anhydrous magnesium sulfate and vacuum evaporated to dryness to obtain a yellow solid. The solid was washed twice with a small amount of methanol and dried under reduced pressure to obtain 1.24 g of an opaque white solid (yield: 69.1%).

reactant | 1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorene | 2.59 mmol, 1.0 g | CC1(CCC(C=2C=C3C=4C=C5C(=CC4CC3=CC21)C(CCC5(C)C)(C)C)(C)C)C | C29H38
reactant | hexane | 2.85 mmol, 1.75 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,6,6-triphenylfulvene | 3.11 mmol, 0.92 g | C1(=CC=CC=C1)C=1C=CC(C1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C24H18
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 1-(3-phenylcyclopentadienyl)-1-(1,1,4,4,7,7,10,10-octamethyl-1,2,3,4,7,8,9,10-octahydrodibenzo(b,h)-fluorenyl)diphenylmethane | 1.24 g, yield: 69.1% | C1(=CC=CC=C1)C1=CC(C=C1)C(C1C(C2=C(C=C3C=4C=C5C(=CC4CC3=C2)C(CCC5(C)C)(C)C)C(C1)(C)C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H56
